US05834494
6-Bromo-5-ethylthio-1-(3-pyridylcarbamoyl)indoline (E44)
6-Bromo-5-ethylthioindoline (D84) (0.28 g, 1.09 mmol) was treated with 3-pyridylisocyanate as in the procedure described in Example 1. The product was recrystallised from ethanol/diethyl ether to yield the title compound (0.29 g, 70%) as an off-white crystalline solid m.p. 226°-227° C.

reactant | 6-Bromo-5-ethylthioindoline | 1.09 mmol, 0.28 g | BrC1=C(C=C2CCNC2=C1)SCC | C10H12BrNS
reactant | 3-pyridylisocyanate | N1=CC(=CC=C1)N=C=O | C6H4N2O
product | 6-Bromo-5-ethylthio-1-(3-pyridylcarbamoyl)indoline | 0.29 g, 70% | BrC1=C(C=C2CCN(C2=C1)C(NC=1C=NC=CC1)=O)SCC | C16H16BrN3OS
